US06531613B1
C. Preparation of 3-[(2-aminophenyl)thio]-2-[(2-ethylhexyl)oxy]-7H benzo[de]anthracene-7-one
A 250 ml three neck round bottom flask was equipped with a mechanical stirrer, heating mantle and condenser. To the flask was added 27 g of 3-bromo-2-[(2-ethylhexyl)oxy]-7H-benzo[de]anthracene-7-one, 5.0 g sodium carbonate, 8.5 g 2-aminothiophenol and 80 g DMF. The mixture was agitated well, heated to 120-130° C., and held at 120-130° C. for three hours. Sodium carbonate (1.0 g) and 1.2 g 2-aminothiophenol were added and the mixture heated for an additional one hour. The reaction mixture was cooled to 25° C. and 250 g of water were added. The reaction mixture was extracted twice with 200 g chloroform. The organic layers were combined and washed twice with 250 g water. The solvent was removed on a rotary evaporator, then the crude product was passed through a flash silica gel column using methylene chloride as the elutant. The product fractions were collected and the solvent removed using a rotary evaporator. The yield of semi-solid 3-[(2-aminophenyl)thio]-2-[(2-ethylhexyl)oxy]-7H-benzo[de]anthracene-7-one was 27.5 g.

reactant | 3-bromo-2-[(2-ethylhexyl)oxy]-7H-benzo[de]anthracene-7-one | 27 g | BrC=1C(=CC2=C3C1C=CC=C3C(C=3C=CC=CC23)=O)OCC(CCCC)CC | C25H25BrO2
reactant | sodium carbonate | 5.0 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-aminothiophenol | 8.5 g | NC1=C(C=CC=C1)S | C6H7NS
reactant | DMF | 80 g | CN(C)C=O | C3H7NO
reactant | Sodium carbonate | 1.0 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-aminothiophenol | 1.2 g | NC1=C(C=CC=C1)S | C6H7NS
solvent | water | 250 g | O | H2O
product | 3-[(2-aminophenyl)thio]-2-[(2-ethylhexyl)oxy]-7H benzo[de]anthracene-7-one | NC1=C(C=CC=C1)SC=1C(=CC2=C3C1C=CC=C3C(C=3C=CC=CC23)=O)OCC(CCCC)CC | C31H31NO2S
